US08895748B2
Preparation of 5-(4-(2-(5-ethylpyridin-2-yl)-2-(methoxyimino)ethoxy)benzyl)thiazolidine-2,4-dione
To a stirring solution of 5-(4-hydroxybenzyl)thiazolidine-2,4-dione (210 mg, 0.941 mmol) in DMSO was added potassium tert-Butoxide (227 mg, 2.02 mmol) in a single portion. Stirred at RT for 15 minutes. Added a solution of (1Z)-2-bromo-1-(5-ethylpyridin-2-yl)ethanone O-methyloxime (242 mg, 0.941 mmol; Supplier=Kalexsyn; Lot=1003-TTP-186) in DMSO (2 ml). Added 1M HCl until pH of mixture was about 3. Extracted with EtOAc. The extract was washed with water, dried (Na2SO4), filtered and evaporated in vacuo to give an off-white foam. 278 mg. 1H-NMR (DMSO-d6): δ12.05 (brs, 1H), 8.47 (d, J=1.7 Hz, 1H), 7.77 (m, 1H), 7.70 m, 1H), 7.14 (d, J=8.5 Hz, 2H), 6.90 (d, J=8.5 Hz, 2H), 5.17 (s, 2H), 4.87 (dd, J=8.9, 4.4 Hz, 1H), 4.01 (s, 3H), 3.30 (dd, J=14.2, 4.5 Hz, 1H), 3.06 (dd, J=14.1, 9.1 Hz, 1H), 2.64 (q, J=7.7 Hz, 2H), 1.19 (t, J=7.6 Hz, 3H). HPLC: 3.103 min., 82 area % and 3.379 min., 18 area % @254 nm; 3.109 min., 91 area % and 3.379 min., 9 area % @ 254 nm. MS (ESI—) for C20H21N3O4S m/z 400.3 (M+H)+: m/z 398.3 (M−H)−

reactant | 5-(4-hydroxybenzyl)thiazolidine-2,4-dione | 0.941 mmol, 210 mg | OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H9NO3S
reactant | potassium tert-Butoxide | 2.02 mmol, 227 mg | CC(C)([O-])C.[K+]
reactant | (1Z)-2-bromo-1-(5-ethylpyridin-2-yl)ethanone O-methyloxime | 0.941 mmol, 242 mg | CO\N=C(/CBr)\C1=NC=C(C=C1)CC | C10H13BrN2O
reactant | HCl | 1M | Cl | ClH
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 5-(4-(2-(5-ethylpyridin-2-yl)-2-(methoxyimino)ethoxy)benzyl)thiazolidine-2,4-dione | C(C)C=1C=CC(=NC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=NOC | C20H21N3O4S
